US09447114B2
To a mixture of 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-hydroxypropyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione (22.25 mg, 0.05 mmol), K2CO3 (13.8 mg, 0.1 mmol) in DMF (1 mL) was added CH3I (8.5 mg, 0.06 mmol). The reaction was heated in a sealed tube at 65° C. for 2 h, cooled to RT then diluted with EA (10 mL) and water (3 mL). The organic layer was washed with brine (3 mL) dried over Na2SO4 and concentrated to a residue which was purified by Prep HPLC to give 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-hydroxypropyl)-1-methylfuro[2,3-d]pyrimidine-2,4(1H,3H)-dione (3 mg, 13% yield) as a white solid. 1H NMR (DMSO-d6) δ: 7.62 (s, 1H), 7.54 (d, J=8.0 Hz, 1H), 7.47 (t, J=7.9 Hz, 1H), 7.41 (d, J=8.0 Hz, 1H), 7.35 (d, J=8.5 Hz, 2H), 7.26 (d, J=8.5 Hz, 2H), 4.47 (t, J=5.2 Hz, 1H), 4.32 (s, 2H), 3.97-3.81 (m, 2H), 3.53 (s, 3H), 3.43 (dd, J=11.8, 6.4 Hz, 2H), 1.75-1.60 (m, 2H). LCMS: MH+ 459 and TR=3.047 min.

reactant | 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-hydroxypropyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.05 mmol, 22.25 mg | ClC1=CC=C(CC2=C(OC=3NC(N(C(C32)=O)CCCO)=O)C3=CC(=CC=C3)Cl)C=C1 | C22H18Cl2N2O4
reactant | K2CO3 | 0.1 mmol, 13.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 0.06 mmol, 8.5 mg | CI | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EA | 10 mL | CC(OCC)=O | C4H8O2
solvent | water | 3 mL | O | H2O
product | 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-hydroxypropyl)-1-methylfuro[2,3-d]pyrimidine-2,4(1H,3H)-dione | 3 mg, 13% yield | ClC1=CC=C(CC2=C(OC=3N(C(N(C(C32)=O)CCCO)=O)C)C3=CC(=CC=C3)Cl)C=C1 | C23H20Cl2N2O4
